US08431695B2
Step 5: Preparation of benzyl 3-{1-[(tert-butoxycarbonyl)amino]-1H-pyrrol-2-yl}azetidine-1-carboxylate
A solution of benzyl 3-[(1E)-N-(tert-butoxycarbonyl)-4,4-dimethoxybutanehydrazonoyl]azetidine-1-carboxylate (2.47 g, 5.67 mmol) and AcOH (30 mL) was stirred (40° C.) for 18 h. The mixture was concentrated and the residue was dissolved in EtOAc (75 mL) and washed with saturated, aqueous NaHCO3 (75 mL). The aqueous layer was extracted with EtOAc (2×50 mL) and the combined organic layers were washed with brine, dried (Na2SO4) and concentrated to afford the desired product (2.1 g) which was used without further purification. ES-MS m/z 272.01 [M+H]+, HPLC RT (min) 3.50.

reactant | benzyl 3-[(1E)-N-(tert-butoxycarbonyl)-4,4-dimethoxybutanehydrazonoyl]azetidine-1-carboxylate | 5.67 mmol, 2.47 g | C(C)(C)(C)OC(=O)N/N=C(\CCC(OC)OC)/C1CN(C1)C(=O)OCC1=CC=CC=C1 | C22H33N3O6
solvent | AcOH | 30 mL | CC(=O)O | C2H4O2
product | benzyl 3-{1-[(tert-butoxycarbonyl)amino]-1H-pyrrol-2-yl}azetidine-1-carboxylate | 2.1 g | C(C)(C)(C)OC(=O)NN1C(=CC=C1)C1CN(C1)C(=O)OCC1=CC=CC=C1 | C20H25N3O4
